US08791132B2
9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene (150 mg, 0.66 mmol) was dissolved in DMF (1 mL), sodium hydride (47 mg, 1.98 mmol) was added and the mixture was stirred at RT for 5 min. 3-(2-Methyl-oxiranyl)-pyridine (143 mg, 1.06 mmol) was added dropwise into the reaction mixture and stirred at RT for 2 h. The reaction was monitored by TLC and LCMS. After consumption of starting material, the reaction mixture was quenched with ice cold water (20 mL) and extracted with EtOAc (2×100 mL). The combined organic layer was washed with water (2×100 mL), dried over anhydrous sodium sulfate and concentrated to obtain the crude product, which was purified by column chromatography (silica gel 100-200 mesh, Eluent: −15% MeOH in DCM) to obtain 80 mg of 1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-2-pyridin-3-yl-propan-2-ol. 1H NMR (CD3OD, HCl salt) δ (ppm): 8.66 (dd, 2H), 8.56 (s, 1H), 7.92 (t, 1H), 7.20 (s, 1H), 6.77 (t, 2H), 5.04 (t, 1H), 3.75 (dd, 2H),3.72 (m, 2H), 3.6 (m, 1H), 3.44 (m, 2H), 3.22 (d, 1H), 2.75 (m, 1H), 2.73 (s, 3H), 2.16 (m, 3H), 1.8 (s, 3H). Separation by chiral HPLC provided enantiomers II-127a-b.

reactant | 9-Methyl-2,3,4,5,6,10c-hexahydro-1H-3a,6-diaza-cyclopenta[c]fluorene | 0.66 mmol, 150 mg | CC1=CC=2C=3C4N(CCC3NC2C=C1)CCC4 | C15H18N2
reactant | sodium hydride | 1.98 mmol, 47 mg | [H-].[Na+]
reactant | 3-(2-Methyl-oxiranyl)-pyridine | 1.06 mmol, 143 mg | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(9-methyl-1,2,3,4,5,10c-hexahydro-3a,6-diaza-cyclopenta[c]fluoren-6-yl)-2-pyridin-3-yl-propan-2-ol | 80 mg | CC1=CC=2C=3C4N(CCC3N(C2C=C1)CC(C)(O)C=1C=NC=CC1)CCC4 | C23H27N3O
